US09169259B2
A mixture of methyl 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)-2-methoxybenzoate (100 mg, 0.18 mmol) and NaOH (100 mg, 2.5 mmol) in 1,4-dioxane (5 mL) and water (5 mL) was stirred for 2 h at 50° C. The mixture was concentrated and adjusted to pH=2 with 3M HCl. The precipitate was filtered and the solid was washed with MeOH (1 mL) and dichloromethane (1 mL) to give 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)-2-methoxybenzoic acid (24 mg, 25%) as a brown solid. 1H NMR (300 MHz, DMSO): δ 10.62 (s, 1H), 10.01 (s, 1H), 8.63 (s, 1H), 8.53 (s, 1H), 8.26-8.21 (m, 2H), 8.09 (d, 1H, J=7.5 Hz), 7.75-7.67 (m, 4 h), 7.50 (dd, 1H, J1=8.4 Hz, J2=1.8 Hz), 7.41 (d, 1H, J=8.4 Hz), 7.10 (d, 1H, J=8.4 Hz), 4.03 (s, 3H), 3.84 (s, 3H), 3.77 (s, 3H). LC-MS: [M+H]+, 541, tR=1.548 min, HPLC: 95.24% at 214 nm, 95.03% at 254 nm, tR=7.943 min.

reactant | methyl 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)-2-methoxybenzoate | 0.18 mmol, 100 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC3=CC(=C(C(=O)OC)C=C3)OC)C=CC1)C=CN2 | C29H26N6O6
reactant | NaOH | 2.5 mmol, 100 mg | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)-2-methoxybenzoic acid | 24 mg, 25% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC3=CC(=C(C(=O)O)C=C3)OC)C=CC1)C=CN2 | C28H24N6O6
